US06756382B2
Using the general method of Example 195 except that the acid chloride was added in a dropwise fashion, 1-(3-aminopropyl)-2-methy-1H-imidazo[4,5-c]quinolin-4-amine (2.00 g, 7.83 mmol) was reacted with cyclohexanecarbonyl chloride (1.14 g, 7.83 mmol) to provide 1.34 g of N-[3-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]cyclohexanecarboxamide as a white powder, m.p. 234.4-235.4° C. Analysis: Calculated for C21H27N5O: % C, 69.01; % H, 7.45; % N, 19.16. Found: % C, 68.70; % H, 7.39; % N, 19.24.

reactant | 1-(3-aminopropyl)-2-methy-1H-imidazo[4,5-c]quinolin-4-amine | 7.83 mmol, 2.00 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C14H17N5
reactant | cyclohexanecarbonyl chloride | 7.83 mmol, 1.14 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | N-[3-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]cyclohexanecarboxamide | 1.34 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(=O)C2CCCCC2)C | C21H27N5O
